US08022206B2
1-(3-Trifluoromethoxyphenyl)ethanol
To a solution of 1-(3-Trifluoromethoxyphenyl)ethanone (1.00 g, 4.90 mmol) in THF (5 mL) at 0° C. was added 1M LiAlH4 in THF (5.9 mL, 5.9 mmol), and the solution was allowed to warm to rt. A few drops of water were added to quench. The mixture was concentrated in vacuo, transferred to a separatory funnel, and extracted using DCM and sat. aq. Rochelle salt. The organic layer was concentrated in vacuo to afford the title compound as a clear oil.

reactant | 1-(3-Trifluoromethoxyphenyl)ethanone | 4.90 mmol, 1.00 g | FC(OC=1C=C(C=CC1)C(C)=O)(F)F | C9H7F3O2
reactant | LiAlH4 | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | water | A few drops | O | H2O
solvent | THF | 5.9 mmol, 5.9 mL | C1CCOC1 | C4H8O
product | 1-(3-Trifluoromethoxyphenyl)ethanol | FC(OC=1C=C(C=CC1)C(C)O)(F)F | C9H9F3O2
